US07259183B2
Preparation of 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amide
To a solution of 59 mg (0.3 mmol) of 5,6-difluoro-1H-indole-7-carboxylic acid and 96 mg of TBTU (0.3 mmol) in 3 ml DMF, were added 0.26 ml (1.5 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 106 mg (0.3 mmol) of (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amine in 2 ml DMF were added. After stirring for 3 h at rt, the reaction mixture was diluted with 50 ml water and extracted with 2×50 ml EtOAc. The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by two successive column chromatographies (8 g silica gel; EtOAc/heptane 1:4; second column eluted with n-hexane/EtOAc 9:1) to give 62 mg yellow viscous oil (35%). MS (ISP) 533.2 (M+H)+.

reactant | 5,6-difluoro-1H-indole-7-carboxylic acid | 0.3 mmol, 59 mg | FC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5F2NO2
reactant | TBTU | 0.3 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.5 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amine | 0.3 mmol, 106 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C20H23F4N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amide | 62 mg, 35% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)F)F)CCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C29H26F6N2O
